US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(((3-(1,1-dioxido-4-thiomorpholinyl)propyl)amino)methyl)-1-isopropenyl-5a,5b,8,8,11a-pentamethyl-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)-2-fluorobenzoic acid
The title compound was prepared following steps 5 and 6 using methyl 2-fluoro-4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate and 4-(3-aminopropyl) thiomorpholine 1,1-dioxide as the reactant amine. The product was isolated as a white solid (50 mg, 55.0%). LCMS: m/e 737.5 (MH+), 2.53 min (method 3). 1H NMR (400 MHz, MeOD) δ ppm 7.85 (d, J=3.8 Hz, 1H), 7.01-7.14 (m, 1H), 6.98 (br. s., 1H), 5.37 (br. s., 1H), 4.78 (br. s., 1H), 4.67 (br. s., 1H), 3.56 (br. s., 4H), 3.43 (br. s., 4H), 3.21 (m, 3H), 3.12 (br. s., 2H), 2.90 (br. s., 1H), 2.53 (br. s., 1H), 2.16 (br. s., 4H), 1.75 (br. s., 10H), 1.53 (br. s., 8H), 1.31 (br. s., 3H), 1.19 (br. s., 5H), 1.10 (br. s., 3H), 1.05 (br. s., 3H), 0.99 (d, J=8.5 Hz, 6H). 19F NMR (376 MHz, MeOD) δ ppm −112.6 (s, 1 F).

reactant | methyl 2-fluoro-4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | FC1=C(C(=O)OC)C=CC(=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C=O)C)C)(C)C | C38H51FO3
reactant | 4-(3-aminopropyl) thiomorpholine 1,1-dioxide | NCCCN1CCS(CC1)(=O)=O | C7H16N2O2S
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(((3-(1,1-dioxido-4-thiomorpholinyl)propyl)amino)methyl)-1-isopropenyl-5a,5b,8,8,11a-pentamethyl-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)-2-fluorobenzoic acid | O=S1(CCN(CC1)CCCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC(=C(C(=O)O)C=C1)F)C)[C@@H](CC2)C(=C)C)=O | C44H65FN2O4S
